US06331640B1
A solution of lithium hydroxide monohydrate (7.00 g, 166.8 mmol) in water (100 mL) was added to a solution of 4-(azidomethyl)-2-chlorobenzoic acid, methyl ester (12.17 g, 53.9 mmol) in tetrahydrofuran (100 mL) and the resulting solution was stirred at room temperature overnight. The reaction mixture was concentrated to remove some of the tetrahydrofuran. The solution was extracted with ethyl acetate (200 mL) and the extract was discarded. Then 1 M HCl (100 mL) was added and the mixture was extracted with ethyl acetate (2×200 mL). The combined organic layers were dried (MgSO4), filtered, and evaporated to give 4-(azidomethyl)-2-chlorobenzoic acid (6.82 g, 60%) as a white solid, mp 87-88° C.

reactant | lithium hydroxide monohydrate | 166.8 mmol, 7.00 g | O.[OH-].[Li+]
reactant | 4-(azidomethyl)-2-chlorobenzoic acid, methyl ester | 53.9 mmol, 12.17 g | N(=[N+]=[N-])CC1=CC(=C(C(=O)OC)C=C1)Cl | C9H8ClN3O2
solvent | water | 100 mL | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-(azidomethyl)-2-chlorobenzoic acid | 6.82 g, 60% | N(=[N+]=[N-])CC1=CC(=C(C(=O)O)C=C1)Cl | C8H6ClN3O2
